US06124488
The reaction was carried out in a manner identical to that for (dimethylaminoethyl)di(2-propyl)cyclopentadiene, the tosylate of N,N-di-n-butylaminoethanol being prepared in situ. The conversion was 94%. The non-geminal di-n-butylaminoethyldi(2-propyl)cyclopentadiene was obtained by distillation with a yield of 53%.

reactant | (dimethylaminoethyl)di(2-propyl)cyclopentadiene | CN(C)CCC1=CC=CC1(C(C)C)C(C)C | C15H27N
reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | N,N-di-n-butylaminoethanol | C(CCC)N(CCCC)C(C)O | C10H23NO
product | di-n-butylaminoethyldi(2-propyl)cyclopentadiene | yield of 53% | C(CCC)N(CCCC)CCC1=CC=CC1(C(C)C)C(C)C | C21H39N
